datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10]([H:21])([H:22])[H:23])=[C:11]([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[C:11]([C:9]([C:8]([H:18])([H:19])[H:20])[C:10]([H:21])([H:22])[H:23])([c:12]1[c:13]([H:25])[c:14]([H:26])[c:15]([H:27])[c:16]([H:28])[c:17]1[H:29])[H:24])([H:3])[H:4],15.8992
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([H:18])[H:19])[H:17])([H:16])[H:22])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:6](=[C:7]([C:8]([H:24])([H:25])[H:26])[H:23])([H:20])[H:21],224.898368
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][C:13]([H:14])([H:15])[H:16])[H:8])[H:7])([H:5])[H:6].[H:12],181.145
[C:0]([O:1][N:2]=[O:3])([H:4])([H:5])[H:6]>>[C:0]([O:1])([H:4])([H:5])[H:6].[N:2]=[O:3],175.43512
[N:0][H:1].[O:2]>>[H:1][O:2].[N:0],217.878
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:11])([H:9])[H:10].[C:2]([H:12])([H:13])[H:14],120.43644
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](#[C:16][C:17]([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:8])[C:17]([C:16]#[C:15][H:20])([C:18]([H:21])([H:22])[H:23])[C:19]([H:24])([H:25])[H:26])[H:7],23.1794
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][O:15]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:14][O:15],208.3632
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])[H:9])([H:7])[H:8],5.60656
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])[H:7],51.4214
[N:0]([H:1])[H:2].[O:3][H:4]>>[N:0]([H:1])([H:2])[H:4].[O:3],-0.849352
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9][H:10]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][O:9][H:10],109.704
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[S:15])[H:19])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:19])[H:5].[C:12](=[C:13]([C:14]=[S:15])[H:18])([H:16])[H:17],61.9232
[C:1](=[C:2]1[C:4]([H:5])([H:6])[C:7]2[C:9]([H:10])=[C:11]([H:12])[C:13]([H:14])=[C:15]([H:16])[C:17]2([H:19])[C:20]1[H:22])([H:23])[H:24]>>[C:1](=[C:2]1[C:4]([H:5])([H:6])[c:7]2[c:9]([H:10])[c:11]([H:12])[c:13]([H:14])[c:15]([H:16])[c:17]2[C:20]1([H:19])[H:22])([H:23])[H:24],22.861376
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:5])([H:6])[H:7].[C:17](=[C:18]([H:20])[H:21])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:6])[H:7].[H:5][C:17](=[C:18]([H:20])[H:21])[H:19],75.312
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]#[C:9][H:20])[H:19])[H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])[C:7]1([C:8]#[C:9][H:20])[H:19])[H:10],57.7392
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13](=[O:14])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:18])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]=[O:14])([H:15])([H:16])[H:17],56.9024
[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])=[C:4][C:5]1([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:0]([C:1]1=[C:2]([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]1[H:12])([H:6])([H:7])[H:8],117.9888
